US05102927
53.6 g of 2-chloro-4,6-bis-(2,2,6,6-tetramethyl-4-piperidylbutylamino)-1,3,5-triazine, together with 15.0 g of dipropylamine in 250 ml of xylene, are stirred under reflux for 16 hours. After cooling to room temperature, 100 ml of 2N sodium hydroxide solution are added, the mixture is stirred vigorously for 15 minutes and the aqueous phase is then separated off. The xylene solution is dried over sodium sulfate and evaporated in vacuo. Crystallisation of the resulting residue from acetonitrile gives 2-dipropylamino-4,6-bis-(2,2,6,6-tetramethyl-4-piperidylbutylamino)-1,3,5-triazine, melting point 95°-96° C.

reactant | 2-chloro-4,6-bis-(2,2,6,6-tetramethyl-4-piperidylbutylamino)-1,3,5-triazine | 53.6 g | ClC1=NC(=NC(=N1)NCC(CCC1CCNC(C1)(C)C)(C)C)NCC(CCC1CCNC(C1)(C)C)(C)C | C29H54ClN7
reactant | dipropylamine | 15.0 g | C(CC)NCCC | C6H15N
reactant | sodium hydroxide | 2N, 100 ml | [OH-].[Na+]
solvent | xylene | 250 ml | C=1(C(=CC=CC1)C)C | C8H10
product | 2-dipropylamino-4,6-bis-(2,2,6,6-tetramethyl-4-piperidylbutylamino)-1,3,5-triazine | C(CC)N(C1=NC(=NC(=N1)NCC(CCC1CCNC(C1)(C)C)(C)C)NCC(CCC1CCNC(C1)(C)C)(C)C)CCC | C35H68N8
